US05728899
Preparation of cis-4-tert-butyloxy-cyclopent-2-enol.
A slurry of lithium aluminum hydride (55 mg, 1.44 mmol), lithium iodide (1.65 g, 5.76 mmol), tert-butyl methyl ether (2 mL) and toluene (3 mL) is cooled to -15° C. The slurry is treated dropwise with 4-tert-butoxy-cyclopent-2-enone(430 mg, 2.79 mmol, dissolved in 1 mL of toluene) over 5 minutes. The reaction mixture is stirred at -20° C. to -12° C. for 2 hours and then allowed to warm to room temperature and is stirred for 30 minutes. The reaction mixture is then treated sequentially with sodium hydroxide (1N, 1 mL), then tert-butyl methyl ether (10 mL) and filtered. The phases of the filtrate are separated and the aqueous phase is extracted with tert-butyl methyl ether (15 mL). The organic extracts and organic phase is combined, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue is purified by chromatography (silica gel, 30 g, 33% ethyl acetate/hexane) to provide the title compound (183 mg, 42%) as a yellow oil, cis/trans/1-2+1-4 addition, 87/9.8/3.2; 1H NMR (CDCl3) 6 5.9 (m, 1H), 5.8 (m, 1H), 4.6 (m, 1H), 4.5 (m, 1H), 2.7 (m, 1H), 2.0 (d,1H, J=9.6 Hz), 1.5 (d appt, 1H, J=4.5, 14 Hz), 1.2 (s, 9H); 13C NMR (CDCl3) δ136.6, 36, 75.5, 74.4, 74, 44.6, 28.7; νmax 3395, 2974, 2938, 907, 2878, 1389, 1364, 1117, 1169, 1022 cm-1 ; MS (CI) m/e (% relative intensity) 157 (M+H+ -H2O), 57, 83 (100).

reactant | lithium aluminum hydride | 1.44 mmol, 55 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium iodide | 5.76 mmol, 1.65 g | [I-].[Li+]
reactant | 4-tert-butoxy-cyclopent-2-enone | 2.79 mmol, 1 mL, 430 mg | C(C)(C)(C)OC1C=CC(C1)=O | C9H14O2
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | tert-butyl methyl ether | 2 mL | COC(C)(C)C | C5H12O
product | cis-4-tert-butyloxy-cyclopent-2-enol | 183 mg, 42% | C(C)(C)(C)O[C@H]1C=C[C@H](C1)O | C9H16O2
